US08981084B2
1-(5-Cyanopyridin-2-yl)-N-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)pyrrolidine-3-carboxamide
This compound was synthesized from 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)aniline and 1-(5-cyanopyridin-2-yl)pyrrolidine-3-carboxylic acid as described for example 37 step 3 (65 mg, yield 58%). 1H NMR (400 MHz, DMSO-d6) δ 10.46 (s, 1H), 8.48-8.47 (m, 2H), 7.85-7.81 (m, 2H), 7.75 (d, J=7.8 Hz, 1H), 7.58-7.54 (m, 1H), 6.59 (d, J=8.9 Hz, 1H), 3.77-3.66 (m, 3H), 3.52 (m, 1H), 3.33 (m, 1H), 2.35-2.29 (m, 1H), 2.23 (m, 1H). MS (ESI) m/z: Calculated for C20H15F3N6O2: 428.12. found: 429.0 (M+H)+

reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)aniline | FC(C1=NC(=NO1)C=1C=C(N)C=CC1)(F)F | C9H6F3N3O
reactant | 1-(5-cyanopyridin-2-yl)pyrrolidine-3-carboxylic acid | C(#N)C=1C=CC(=NC1)N1CC(CC1)C(=O)O | C11H11N3O2
product | 1-(5-Cyanopyridin-2-yl)-N-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)pyrrolidine-3-carboxamide | yield 58% | C(#N)C=1C=CC(=NC1)N1CC(CC1)C(=O)NC1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C20H15F3N6O2
